US05486466
A mixture of 6.85 g of 2,2,2-trichloroethyl (R)-3,5-bis (tert-butyldimethylsilyloxy)-6-methyl-2-[[[2-(3-trityloxypropionylamino)-2-(methoxycarbonyl)ethyl] thio]methyl]benzoate and 0.11 g of p-toluenesulfonic acid in 115 ml of methanol was stirred at 60° C. for 30 minutes. The mixture was cooled and the solvent was evaporated in vacuo. Chromatography of the residue on silica gel using ethyl acetate/methylene chloride/hexane (1:1:1, v/v/v) as eluent afforded 3.97 g of 2,2,2-trichloroethyl (R)-3,5-bis(tert-butyldimethylsilyloxy)2-[[[2-(3-hydroxypropionylamino)-2-(methoxycarbonyl)ethyl]thio]methyl]-6-methyl-benzoate as white-off solid.

reactant | 2,2,2-trichloroethyl (R)-3,5-bis (tert-butyldimethylsilyloxy)-6-methyl-2-[[[2-(3-trityloxypropionylamino)-2-(methoxycarbonyl)ethyl] thio]methyl]benzoate | 6.85 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)O[Si](C)(C)C(C)(C)C)C)CSC[C@@H](C(=O)OC)NC(CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C49H64Cl3NO8SSi2
reactant | p-toluenesulfonic acid | 0.11 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 115 ml | CO | CH4O
product | 2,2,2-trichloroethyl (R)-3,5-bis(tert-butyldimethylsilyloxy)2-[[[2-(3-hydroxypropionylamino)-2-(methoxycarbonyl)ethyl]thio]methyl]-6-methyl-benzoate | 3.97 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)O[Si](C)(C)C(C)(C)C)C)CSC[C@@H](C(=O)OC)NC(CCO)=O | C30H50Cl3NO8SSi2
